US07915270B2
6-(2-(7-Phenylheptanoyl)oxazol-5-yl)picolinic acid
The title compound was prepared from methyl 6-(2-(7-phenylheptanoyl)oxazol-5-yl)picolinate (9 mg, 0.059 mmol) following General Procedure E. Preparative thin layer chromatography (2% AcOH/EtOAc) yielded the title compound as a white solid (5 mg, 57%): 1H NMR (THF-d8, 500 MHz) δ 8.11-8.04 (m, 4H), 7.22-7.08 (m, 5H), 3.08 (t, 2H, J=7.5 Hz), 2.61 (t, 2H, J=7.5 Hz), 1.76-1.68 (m, 2H), 1.68-1.62 (m, 2H), 1.45-1.41 (m, 4H); 13C NMR (THF-d8, 125 MHz) δ 185.6, 163.1, 156.4, 151.4, 147.6, 144.7, 141.0, 137.1, 126.7, 126.5, 126.1, 123.9, 122.8, 121.1, 37.1, 34.3, 30.0, 27.6, 27.5, 22.2; MALDI-FTMS m/z 379.1645 (M+H+, C22H23N2O4, requires 379.1652).

reactant | methyl 6-(2-(7-phenylheptanoyl)oxazol-5-yl)picolinate | 0.059 mmol, 9 mg | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)OC | C23H24N2O4
solvent | AcOH EtOAc | CC(=O)O.CCOC(=O)C
product | 6-(2-(7-Phenylheptanoyl)oxazol-5-yl)picolinic acid | 5 mg, 57% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=CC=CC(=N1)C(=O)O | C22H22N2O4
